US06416861B1
Preparation of 1-Allyldimethylsilyl-4-iodobenzene (1 Scheme 24).
To a solution 1,4-diiodobenzene (16.5 g, 50 mmol) in dried THF (250 mL) at −78° C. was added n-butyllithium (22 mL, 2.5 M solution in hexanes, 55 mmol) over a period of 30 min. After being stirred for 10 min at −78° C., allylchlorodimethylsilane (6.7 g, 50 mmol) in was added dropwise over a period of 20 min, and the reaction mixture was warmed to room temperature. After stirring for 1 h at room temperature the reaction mixture was concentrated, and the residue was extracted with ether and brine. The organic layer was dried (Na2SO4) and distilled (Kugelrohr) under reduced pressure to provide a liquid (11.5 g, 76%); 1H NMR (300 MHz, CDCl3) δ 0.32 (s, 6 H), 1.78 (d, J=7.5 Hz, 2 H), 4.89 (m, 1 H), 4.92 (d, J=4.0 Hz, 1 H), 5.78 (m, 1 H), 7.27 (d, J=7.5 Hz, 2 H), 7.74 (d, J=7.5 Hz, 2 H); 13C NMR (75 MHz, CDCl3) −3.5, 23.8, 114.1, 134.4, 135.6, 137.1, 138.3, 139.6; HRMS calcd for C11H15ISi 301.9987, found 301.9990.

reactant | 1,4-diiodobenzene | 50 mmol, 16.5 g | IC1=CC=C(C=C1)I | C6H4I2
reactant | n-butyllithium | 55 mmol, 2.5 M, 22 mL | C(CCC)[Li]
reactant | allylchlorodimethylsilane | 50 mmol, 6.7 g | C(C=C)[Si](C)(C)Cl | C5H11ClSi
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 1-Allyldimethylsilyl-4-iodobenzene | 11.5 g, 76% | C(C=C)C1=C(C=C(C=C1)I)[SiH](C)C | C11H15ISi
